* CONDUCTION PMOS *
*******************

.INCLUDE ../45nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

* Defining parameters
.PARAM Lmin=45n
.PARAM Wmin=90n
.PARAM Ldiff=90n
	
* Description of the transistor
Mp drain gate source body pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	  drain	    0       0
Vg 	  gate	    alim		0
Vs 	  source	  0       1.1
Vb 	  body	    0		    0
Vdd   alim	    0		    0

.dc TEMP 25 90 75 Vdd 0 1.1 0.05 

* Analysis Parameters
.CONTROL
  run
    set wr_vecnames
    set wr_singlescale
    print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
    wrdata output_W_90n.txt abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
.ENDC

.END